* 
*#SIMETRIX
V1 V1_P 0 180
X$V2 V2_P V2_N SQU_SOURCE pinnames: P N params: _V1=0 _V2=1 _FREQ=10k _DELAY=0 _DRATIOx100=50 _T_RISE=500n _T_FALL=500n _DAMP_COEF=0 _PWIDTH=49.5u _OFF_UNTIL_DELAY=0 _IDLE_IN_POP=0 _USEPHASE=0 _PHASE=0
R1 R1_P 0 1K
V3 vcc 0 15
R2 R2_P L1_N 150m
X$V4 V4_P 0 SAW_SOURCE pinnames: P N params: _V1=0 _V2=2 _FREQ=100k _DELAY=0 _DRATIOx100=99.9 _T_RISE=9.99u _T_FALL=10n _DAMP_COEF=0 _PWIDTH=0 _OFF_UNTIL_DELAY=0 _IDLE_IN_POP=0 _USEPHASE=0 _PHASE=0 _SHOWPARAMS=0
R3 R3_P V2_P 4.7
V5 V5_P 0 250m
L1 V2_N L1_N 1.13m   
R4 R4_P 0 46.08
X$D1 0 D1_N hfa15tb60 pinnames: P N
X$U1 U1_OUT 0 V5_P V4_P SX_COMP params: RIN=10Meg ROUT=10 HYSTWD=5m VOL=0 VOH=5 DELAY=50p risefall=10n pinnames: OUT RTN INP INN
X$Q1 Q1_D R3_P V2_N IRF740 pinnames: D G S
C1 C1_P C1_N 162.7n   
V$IPROBE1 D1_N V2_N 0.0 
.GRAPH IPROBE1#p axisType="owngrid" persistence=-1 graphName="Grafica 1" curveLabel="Corriente del diodo" analysis="tran|ac|dc" xLog="auto" yLog="lin"  nowarn=true disabled=false 
V$IPROBE2 R2_P C1_P 0.0 
.GRAPH IPROBE2#p CurveLabel=IPROBE2 analysis=tran|ac|dc disabled=false 
V$IPROBE3 C1_N R1_P 0.0 
.GRAPH IPROBE3#p CurveLabel=IPROBE3 analysis=tran|ac|dc disabled=false 
V$IPROBE4 C1_P R4_P 0.0 
.GRAPH IPROBE4#p axisType="owngrid" persistence=-1 curveLabel="Corriente de carga" analysis="tran|ac|dc" xLog="auto" yLog="lin"  nowarn=true disabled=false 
.GRAPH U1_OUT axisType="owngrid" persistence=-1 graphName="GRAFICA PWM " curveLabel="PWM" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe1  
V$IPROBE5 V1_P Q1_D 0.0 
.GRAPH IPROBE5#p CurveLabel=IPROBE5 analysis=tran|ac|dc disabled=false 
.GRAPH V5_P axisType="owngrid" persistence=-1 graphName="CONTROL" curveLabel="CONTROL" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe2  
.GRAPH V4_P axisType="owngrid" persistence=-1 curveLabel="TRIANGULAR " analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe3  
.tran 1m

